US09326973B2
To solution of 1-(methoxycarbonyl)cyclopropanecarboxylic acid (144 mg, 1 mmol) was added 2M oxalyl dichloride (1.0 mL, 2.0 mmol) in DCM followed by a few drops of DMF. The reaction mixture was stirred until gas evolution ceased (˜1 h). Excess oxalyl chloride and DCM were evaporated to afford methyl 1-(chlorocarbonyl)cyclopropanecarboxylate. To a solution of methyl 1-(chlorocarbonyl)cyclopropanecarboxylate in DCM (2 mL) was added 4,4-difluoropiperidine/HCl (173 mg) and DIPEA (0.384 mL) at 0° C., and then the reaction mixture was allowed to warm to rt. The reaction mixture was purified by silica gel FCC to yield Cap P-20. 1H NMR (500 MHz, CDCl3) δ ppm 3.77-3.82 (2H, m), 3.75 (3H, s), 3.64 (2H, t, J=5.42 Hz), 1.96-2.09 (4H, m), 1.51-1.57 (2H, m), 1.33-1.39 (2H, m). Hydrolysis of methyl 1-(4,4-difluoropiperidine-1-carbonyl)cyclopropanecarboxylate (by 2 mL of 1N NaOH, 1 mL of THF and 1 mL of MeOH) to afford Cap P-20 as a white solid (194 mg). 1H NMR (500 MHz, CDCl3) δ ppm 3.78-3.73 (4H, m), 1.97-2.10 (4H, m), 1.59-1.65 (2H, m), 1.42-1.48 (2H, m).

reactant | 1-(methoxycarbonyl)cyclopropanecarboxylic acid | 1 mmol, 144 mg | COC(=O)C1(CC1)C(=O)O | C6H8O4
reactant | oxalyl dichloride | 2.0 mmol, 2M, 1.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | methyl 1-(chlorocarbonyl)cyclopropanecarboxylate | ClC(=O)C1(CC1)C(=O)OC | C6H7ClO3
